US08859611B2
Lastly, Step 5 of Scheme II was followed: A mixture of crude ethyl 3-(4-(4-bromophenyl)-3-(4-cyano-2-methylphenyl)thiophen-2-yl)propanoate (210 mg, 0.46 mmol) in DMSO (3 mL) was added aqueous solution of NaOH (2M, 1 mL), followed by the addition of H2O2 (0.2 mL). The mixture was stirred at room temperature for 10 minutes. The mixture was quenched with saturated aqueous Na2SO3 and extracted with a mixture of DCM/iPrOH (3/1). The combined organic layer was dried over Na2SO4, concentrated in vacuo. The residue was purified by HPLC (48-78% acetonitrile+0.15% trifluoroacetic acid in water, over 15 min.) to afford 3-(4-(4-bromophenyl)-3-(4-carbamoyl-2-methylphenyl)thiophen-2-yl)propanoic acid (17.0 mg, yield 8.3%). 1H NMR (CD3OD 400 MHz): δ 7.66 (d, J=8.0 Hz, 1H), 7.62 (s, 1H), 7.26 (d, J=8.0 Hz, 1H), 7.20-7.19 (m, 3H), 7.11-7.08 (m, 2H), 2.62-2.81 (m, 2H), 2.50 (t, J=7.6 Hz, 2H), 1.98 (s, 3H). MS (ESI): m/z 446.0 [M+3]+.

reactant | ethyl 3-(4-(4-bromophenyl)-3-(4-cyano-2-methylphenyl)thiophen-2-yl)propanoate | 0.46 mmol, 210 mg | BrC1=CC=C(C=C1)C=1C(=C(SC1)CCC(=O)OCC)C1=C(C=C(C=C1)C#N)C | C23H20BrNO2S
reactant | NaOH | 2M, 1 mL | [OH-].[Na+]
reactant | H2O2 | 0.2 mL | OO | H2O2
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | 3-(4-(4-bromophenyl)-3-(4-carbamoyl-2-methylphenyl)thiophen-2-yl)propanoic acid | 17.0 mg, yield 8.3% | BrC1=CC=C(C=C1)C=1C(=C(SC1)CCC(=O)O)C1=C(C=C(C=C1)C(N)=O)C | C21H18BrNO3S
